2179-02-13 08:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2179-2-12**] 08:33 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-13**] 08:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.6
C (97.9
   HR: 70 (66 - 86) bpm
   BP: 106/61(72) {95/47(59) - 136/91(95)} mmHg
   RR: 10 (10 - 22) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
           Total In:
                                                                    295 mL
                                                                    526 mL
   PO:
           TF:
   IVF:
                                                                    295 mL
                                                                    151 mL
   Blood products:
   375 mL
   Total out:
                                                                    260 mL
                                                                    800 mL
   Urine:
                                                                    160 mL
                                                                    800 mL
   NG:
   Stool:
                                                                    100 mL
   Drains:
   Balance:
                                                                     35 mL
                                                                   -274 mL
   Respiratory support
   SpO2: 99%
   ABG: ///27/
   Physical Examination
   Vitals - T: 98.3  BP: 136/76 HR: 75 RR: 20 02 sat:  100% on RA
   GENERAL:  NAD, AOX3, cachectic
   HEENT:  MMM, JVP 11cm, EOMI, sclera anicteric, PERRL
   CARDIAC:  RRR, 2/6 SEM at the RUSB without radiation
   LUNG:  bibasilar rales
   ABDOMEN:  soft, moderate distension, + fluid wave, no
   hepatosplenomegaly, non tender
   EXT:  WWP, no edema
   NEURO:  AOx3, grossly normal
   DERM:  no stigmata of chronic liver disease
   Labs / Radiology
   61 K/uL
   7.6 g/dL
   110 mg/dL
   0.4 mg/dL
   27 mEq/L
   3.8 mEq/L
   18 mg/dL
   107 mEq/L
   138 mEq/L
   21.5 %
   3.9 K/uL
        [image002.jpg]
                             [**2179-2-12**]  08:21 PM
                             [**2179-2-13**]  03:10 AM
   WBC
   5.5
   3.9
   Hct
   24.7
   21.5
   Plt
   94
   61
   Cr
   0.5
   0.4
   Glucose
   94
   110
   Other labs: PT / PTT / INR:17.1/35.6/1.5, ALT / AST:24/43, Alk Phos / T
   Bili:47/1.2, Ca++:7.9 mg/dL, Mg++:1.8 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 ESOPHAGEAL VARICES
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
    57 yoM w/ a h/o hep C cirrhosis presents as a transfer from [**Hospital3 33**]
   hospital with an upper GI bleed.
   #  UGIB: likely source is ulceration at banding site of varicies, less
   likely secondary source could be gastritis.
   -3 PIV
   -continue octreotide drip at 50mcg/hr x 5 days
   -hepatology consulted
   -[**Hospital1 **] IV PPI
   -daily coags, transfuse FFP for INR > 1.5, vitmain K
   -q8hr hct, transfuse for hct < 25
   -maintain active type and screen and cross match 4 units at all times
   -cipro 400mg IV bid
   -NPO- can advance to clears today
   -lactulose 30mL daily
   # Hep C cirrhosis: given current bleeding will hold beta blocker and
   diuretics.
   -f/u hepatology recs
   # abnormal lung exam: sating well, no cough or respiratory symptoms,
   likely related to atelectasis given abd distension.
   -incentive spirometry.
   -obtain CXR
   # FEN: replete lytes prn / clear liquid diet
   # PPX: PPI, pneumoboots, bowel regimen
   # ACCESS: PIV x 3
   # CODE: FULL CODE
   # CONTACT:
   # ICU CONSENT:
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-2-12**] 06:48 PM
   22 Gauge - [**2179-2-12**] 06:51 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-02-14 07:58:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   Had BRBPR at 1330, no changes in BP or HR, not orthostatic
   Stat Hct: 23.5
   Made NPO
   Liver U/S with new large ascites
   1845 had another 200cc BRBPR, HR slightly increase to 90's with stable
   BP. Hct stable at 1800 at 24. GI wanted to repeat EGD and recommended
   intubation. Pt had successful intubation.
   EGD did not show active bleeding, though clot over known ulcer along
   varice. Glue applied to this area. Sig melena seen on flex sig.
   Pt self extubated this am
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2179-2-13**] 08:00 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Propofol - 50 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2179-2-13**] 08:42 AM
   Fentanyl - [**2179-2-13**] 08:45 PM
   Propofol - [**2179-2-14**] 01:30 AM
   Midazolam (Versed) - [**2179-2-14**] 03:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-14**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 35.8
C (96.5
   HR: 65 (55 - 88) bpm
   BP: 120/78(88) {91/59(66) - 156/91(97)} mmHg
   RR: 16 (11 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
           Total In:
                                                                  3,447 mL
                                                                  1,491 mL
   PO:
                                                                    180 mL
           TF:
   IVF:
                                                                  2,142 mL
                                                                  1,207 mL
   Blood products:
                                                                  1,125 mL
                                                                    284 mL
   Total out:
                                                                  1,655 mL
                                                                    240 mL
   Urine:
                                                                  1,355 mL
                                                                    240 mL
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  1,792 mL
                                                                  1,251 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Face tent
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 68
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   Compliance: 41.7 cmH2O/mL
   SpO2: 99%
   ABG: 7.39/44/62/23/0
   Ve: 8.6 L/min
   PaO2 / FiO2: 155
   Physical Examination
   Gen: Aox3, appropriate
   Lungs: CTAB
   Heart: RRR, s1/s2 present
   Abd: +BS ,soft, distended, midly firm
   Ext: 2 pulses no edema
   Labs / Radiology
   52 K/uL
   10.6 g/dL
   91 mg/dL
   0.5 mg/dL
   23 mEq/L
   3.7 mEq/L
   10 mg/dL
   101 mEq/L
   129 mEq/L
   30.6 %
   2.4 K/uL
         [image002.jpg]
                             [**2179-2-12**]  08:21 PM
                             [**2179-2-13**]  03:10 AM
                             [**2179-2-13**]  10:09 AM
                             [**2179-2-13**]  01:39 PM
                             [**2179-2-13**]  05:40 PM
                             [**2179-2-13**]  09:28 PM
                             [**2179-2-14**]  01:33 AM
   WBC
   5.5
   3.9
   3.1
   2.4
   Hct
   24.7
   21.5
   24.6
   23.5
   24.4
   30.6
   Plt
   94
   61
   64
   52
   Cr
   0.5
   0.4
   0.5
   TCO2
   28
   Glucose
   94
   110
   91
   Other labs: PT / PTT / INR:15.3/32.9/1.3, ALT / AST:22/47, Alk Phos / T
   Bili:47/2.6, Albumin:2.7 g/dL, LDH:273 IU/L, Ca++:7.3 mg/dL, Mg++:1.8
   mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 ESOPHAGEAL VARICES
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   =============================
   57 yoM w/ a h/o hep C cirrhosis presents as a transfer from [**Hospital3 33**]
   hospital s/p varicieal banding.
   .
   ## BRBPR/Melana: Pt s/p 2nd EGD last night and glue application to
   varices
   -cont octreotide gtt
   -cont PPI [**Hospital1 **]
   -daily coags, transfuse FFP for INR > 1.5
   -q12hr hct, transfuse for hct < 25
   --active type and screen
   --f/u hepatology recs
   .
   ## Elective Inutbation: Intubated prior to EGD given concern for need
   for airway protection. Self extubated this am. Sats stable and denies
   throat pain and voice is normal
   .
   # Hyponatremia:
   repeat value
   possible urine lytes, osm check if real
   .
   ##Anemia: [**12-22**] UGIB. Hct now 30 after 2 more units yesterday. Total of 3
   units during stay.
   -cont to monitor as per above
   .
   # Thrombocytopenia: transfuse for plts <10,000 or spont bleeding
   .
   # Hep C cirrhosis: given current bleeding will hold beta blocker and
   diuretics.
   -f/u hepatology recs
   .
   ICU Care
   Nutrition: Clears
   Glycemic Control:
   Lines:
   20 Gauge - [**2179-2-12**] 06:48 PM
   22 Gauge - [**2179-2-12**] 06:51 PM
   18 Gauge - [**2179-2-13**] 01:00 PM
   Prophylaxis:
   DVT: VDBs
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  HCP is mother
   [**Name (NI) 156**] status: Full code
   Disposition: ICU

2179-02-15 06:45:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: GI Bleeding
   24 Hour Events:
 PARACENTESIS - At [**2179-2-14**] 04:50 PM
   [**2-14**]
   --self extubated without complication
   --1500 sudden abdominal pain and distension; KUB negative for free air;
   bedside ultrasound and exam suggested ascites and bloating, bladder
   pressure 20---> small therapeutic tap of 3 L performed and albumin
   provided
   --hct stable
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2179-2-14**] 08:12 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2179-2-14**] 08:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-15**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37.3
C (99.2
   HR: 75 (55 - 83) bpm
   BP: 120/71(84) {91/56(67) - 143/89(98)} mmHg
   RR: 19 (14 - 28) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,260 mL
                                                                    123 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  2,566 mL
                                                                    123 mL
   Blood products:
                                                                    334 mL
   Total out:
                                                                  3,870 mL
                                                                    190 mL
   Urine:
                                                                    870 mL
                                                                    190 mL
   NG:
   Stool:
   Drains:
                                                                  3,000 mL
   Balance:
                                                                   -610 mL
                                                                    -67 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   Gen: Aox3, appropriate
   Lungs: CTAB
   Heart: RRR, s1/s2 present
   Abd: +BS , distended, firm
   Ext: 2 pulses no edema
   Labs / Radiology
   [**2179-2-14**] ABD X-ray:
   Left lateral decubitus view of the abdomen is technically
   nondiagnostic for assessment for free intraperitoneal air and could be
   repeated at no additional charge to the patient. A nonobstructive bowel
   gas
   pattern is visualized. Central displacement of small and large bowel
   loops is
   suggestive of ascites, confirmed on recent ultrasound one day earlier.
   [**2179-2-14**] CXR:
   No radiographic evidence of free intraperitoneal air or
   pneumomediastinum
   54 K/uL
   10.4 g/dL
   107 mg/dL
   0.4 mg/dL
   22 mEq/L
   3.4 mEq/L
   8 mg/dL
   109 mEq/L
   139 mEq/L
   29.6 %
   2.2 K/uL
        [image002.jpg]
                             [**2179-2-12**]  08:21 PM
                             [**2179-2-13**]  03:10 AM
                             [**2179-2-13**]  10:09 AM
                             [**2179-2-13**]  01:39 PM
                             [**2179-2-13**]  05:40 PM
                             [**2179-2-13**]  09:28 PM
                             [**2179-2-14**]  01:33 AM
                             [**2179-2-14**]  11:58 AM
                             [**2179-2-14**]  08:43 PM
                             [**2179-2-15**]  05:57 AM
   WBC
   5.5
   3.9
   3.1
   2.4
   2.8
   2.2
   Hct
   24.7
   21.5
   24.6
   23.5
   24.4
   30.6
   28.8
   30.9
   29.6
   Plt
   94
   61
   64
   52
   58
   54
   Cr
   0.5
   0.4
   0.5
   0.5
   0.4
   TCO2
   28
   Glucose
   94
   110
   91
   102
   107
   Other labs: PT / PTT / INR:16.2/32.9/1.4, ALT / AST:22/47, Alk Phos / T
   Bili:47/2.6, Differential-Neuts:67.0 %, Lymph:21.9 %, Mono:7.8 %,
   Eos:3.2 %, Albumin:2.7 g/dL, LDH:273 IU/L, Ca++:7.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 CIRRHOSIS OF LIVER, OTHER
 ESOPHAGEAL VARICES
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   57 yoM w/ a h/o hep C cirrhosis presents as a transfer from [**Hospital3 33**]
   hospital s/p varicieal banding.
   .
   # BRBPR/Melana: Pt s/p 2nd EGD last night and glue application to
   varices. No further bleeding.  HCT stable.
   -d/c octreotide gtt
   -cont PPI [**Hospital1 **] switch to po
   -daily coags, transfuse FFP for INR > 1.5
   -daily hct; transfuse for hct < 25
   --active type and screen
   --f/u hepatology recs
   - continue ciprofloxacin
   .
   # Abdominal distension: Patient with significant abdominal pain and
   distension of sudden onset yesterday.  KUB negative for perforation.
   Exam and KUB suggested gas pain/bloating. Patient remained
   hemodynamically stable.   Due to large amount of ascites was tapped for
   symptomatic relief.  Only 3 L were removed.  Peritoneal fluid negative
   for SBP based on  WBC count.
   - continue simethicone
   - continue bowel regimen with miralax and lactulose/rifaximin
   - consider repeat therapeutic tap if fluid reaccumulation.
   .
   # Hyponatremia: lab error; resolved with recheck
   ..
   ##Anemia: [**12-22**] UGIB. Hct stable at 30. Total of 3 units during stay.
   -cont to monitor as per above
   .
   # Thrombocytopenia: transfuse for plts <50,000 or spont bleeding
   .
   # Hep C cirrhosis: given current bleeding will hold beta blocker and
   diuretics.
   -f/u hepatology recs
   ICU Care
   Nutrition:  Clears advance as tolerated
   Glycemic Control:
   Lines:
   22 Gauge - [**2179-2-12**] 06:51 PM
   18 Gauge - [**2179-2-14**] 12:00 PM
   Prophylaxis:
   DVT:  pneumoboots
   Stress ulcer:  ppi
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floor

2179-02-15 11:27:00 Physician Attending Progress Note
Chief Complaint:
   HPI:
   24 Hour Events:
   Stable s/p self-extubation
   in the afternoon developed sudden severe abdominal pain, tense abdomen,
   stat KUB without free air but significant ascites via u/s, bladder
   pressure = 20, paracentesis with 3L performed.  No evidence SBP.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2179-2-15**] 08:40 AM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2179-2-15**] 08:50 AM
   Other medications:
   octreotide gtt (d/c)
   sucralfate 1 g
   lactulose 30 qday
   rifaxamin
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-15**] 11:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.1
C (97
   HR: 75 (56 - 89) bpm
   BP: 90-143/ mmHg
   RR: 23 (14 - 28) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
             Total In:
                                                                  3,260 mL
                                                                    752 mL
   PO:
                                                                    360 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  2,566 mL
                                                                    512 mL
   Blood products:
                                                                    334 mL
   Total out:
                                                                  3,870 mL
                                                                    328 mL
   Urine:
                                                                    870 mL
                                                                    328 mL
   NG:
   Stool:
   Drains:
                                                                  3,000 mL
   Balance:
                                                                   -610 mL
                                                                    424 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   54 K/uL
   107 mg/dL
   0.4 mg/dL
   22 mEq/L
   3.4 mEq/L
   8 mg/dL
   109 mEq/L
   139 mEq/L
   29.6 %
   2.2 K/uL
        [image002.jpg]
                             [**2179-2-12**]  08:21 PM
                             [**2179-2-13**]  03:10 AM
                             [**2179-2-13**]  10:09 AM
                             [**2179-2-13**]  01:39 PM
                             [**2179-2-13**]  05:40 PM
                             [**2179-2-13**]  09:28 PM
                             [**2179-2-14**]  01:33 AM
                             [**2179-2-14**]  11:58 AM
                             [**2179-2-14**]  08:43 PM
                             [**2179-2-15**]  05:57 AM
   WBC
   5.5
   3.9
   3.1
   2.4
   2.8
   2.2
   Hct
   24.7
   21.5
   24.6
   23.5
   24.4
   30.6
   28.8
   30.9
   29.6
   Plt
   94
   61
   64
   52
   58
   54
   Cr
   0.5
   0.4
   0.5
   0.5
   0.4
   TCO2
   28
   Glucose
   94
   110
   91
   102
   107
   Other labs: PT / PTT / INR:16.2/32.9/1.4, ALT / AST:22/47, Alk Phos / T
   Bili:47/2.6, Differential-Neuts:67.0 %, Lymph:21.9 %, Mono:7.8 %,
   Eos:3.2 %, Albumin:2.7 g/dL, LDH:273 IU/L, Ca++:7.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
   57 Yo M hcv cirrhosis, recent variceal bleed with banding now returns
   with repeat variceal bleed, s/p endoscopy
   1. Bleed: no further active bleeding, currently hemodynamically stable
    - continue octreotide
    - PO PPI
    - cont monitor coags, [**Hospital1 **] hct
   2. Abdominal Distension:
    - improved s/p 3L tap
    - labs not c/w sbp
    - cont cipro sbp prophy
   3. Thrombocytopenia: Plt > 50
   4. FEN: ADAT
   5. Access: 22, 18
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2179-2-12**] 06:51 PM
   18 Gauge - [**2179-2-14**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes
   Patient is critically ill

2179-02-16 02:45:00 Physician Attending Progress Note
Chief Complaint: a-flutter
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   52M fell earlier today and referred to ER by [**Name (NI) **], unclear details of
   fall. Currently without complaints beyond hunger. In ER was in
   a-flutter at 150, given dilt and lopressor and started on dilt gtt.
   Head CT concerning for SAH. Head MRI showed left patietal lesions,
   apparently contrast is needed to clarify.
   seizures
   COPD
   schizoaffective
   EtOH abuse
   tobacco abuse
   Remains on dilt drip. CXR showed left pleural effusion and given abx.
   24 Hour Events:
 PARACENTESIS - At [**2179-2-14**] 04:50 PM
   History obtained from housestaff
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2179-2-15**] 08:00 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2179-2-15**] 08:50 AM
   Morphine Sulfate - [**2179-2-15**] 09:07 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Tachycardia
   Flowsheet Data as of  [**2179-2-16**] 02:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.3
C (99.2
   Tcurrent: 36.7
C (98
   HR: 81 (56 - 95) bpm
   BP: 104/57(67) {104/57(67) - 158/93(108)} mmHg
   RR: 20 (14 - 26) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
   Bladder pressure: 15 (15 - 17) mmHg
   Total In:
                                                                  1,371 mL
                                                                     97 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                    931 mL
                                                                     47 mL
   Blood products:
                                                                    200 mL
                                                                     50 mL
   Total out:
                                                                  7,943 mL
                                                                    140 mL
   Urine:
                                                                    943 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
                                                                  7,000 mL
   Balance:
                                                                 -6,572 mL
                                                                    -43 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: 2L
   SpO2: 95%
   ABG: ///22/
   Physical Examination
   General Appearance: No acute distress
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Abdominal: Soft, Non-tender
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Oriented (to): [**Hospital **] hospital, Movement: Purposeful, Tone:
   Not assessed
   Labs / Radiology
   10.4 g/dL
   54 K/uL
   107 mg/dL
   0.4 mg/dL
   22 mEq/L
   3.4 mEq/L
   8 mg/dL
   109 mEq/L
   139 mEq/L
   29.6 %
   2.2 K/uL
        [image002.jpg]
                             [**2179-2-12**]  08:21 PM
                             [**2179-2-13**]  03:10 AM
                             [**2179-2-13**]  10:09 AM
                             [**2179-2-13**]  01:39 PM
                             [**2179-2-13**]  05:40 PM
                             [**2179-2-13**]  09:28 PM
                             [**2179-2-14**]  01:33 AM
                             [**2179-2-14**]  11:58 AM
                             [**2179-2-14**]  08:43 PM
                             [**2179-2-15**]  05:57 AM
   WBC
   5.5
   3.9
   3.1
   2.4
   2.8
   2.2
   Hct
   24.7
   21.5
   24.6
   23.5
   24.4
   30.6
   28.8
   30.9
   29.6
   Plt
   94
   61
   64
   52
   58
   54
   Cr
   0.5
   0.4
   0.5
   0.5
   0.4
   TCO2
   28
   Glucose
   94
   110
   91
   102
   107
   Other labs: PT / PTT / INR:16.2/32.9/1.4, ALT / AST:23/40, Alk Phos / T
   Bili:58/2.7, Differential-Neuts:67.0 %, Lymph:21.9 %, Mono:7.8 %,
   Eos:3.2 %, Albumin:2.7 g/dL, LDH:273 IU/L, Ca++:7.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 CIRRHOSIS OF LIVER, OTHER
 ESOPHAGEAL VARICES
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2179-2-12**] 06:51 PM
   18 Gauge - [**2179-2-14**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2179-02-16 08:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PARACENTESIS - At [**2179-2-15**] 09:45 PM
   -acute onset abdominal pain after patient signed out to the hepatology
   service, abdomen tense and patient diffusely tender and writhing in
   pain
   -KUB negative, liver fellow contact[**Name (NI) **] who suggested CT abd/pelvis which
   was negative
   -therapeutic tap performed with 7 liters removed, albumin replaced
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2179-2-15**] 08:00 PM
   Infusions:
   Other ICU medications:
   Pantoprazole (Protonix) - [**2179-2-15**] 08:50 AM
   Morphine Sulfate - [**2179-2-15**] 09:07 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-16**] 08:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37
C (98.6
   Tcurrent: 36.9
C (98.5
   HR: 79 (71 - 95) bpm
   BP: 103/60(70) {101/46(60) - 158/93(108)} mmHg
   RR: 22 (15 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 71 Inch
    Bladder pressure: 15 (15 - 17) mmHg
   Total In:
                                                                  1,371 mL
                                                                    189 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                    931 mL
                                                                    139 mL
   Blood products:
                                                                    200 mL
                                                                     50 mL
   Total out:
                                                                  7,943 mL
                                                                    380 mL
   Urine:
                                                                    943 mL
                                                                    380 mL
   NG:
   Stool:
   Drains:
                                                                  7,000 mL
   Balance:
                                                                 -6,572 mL
                                                                   -191 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   53 K/uL
   9.6 g/dL
   135 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.3 mEq/L
   6 mg/dL
   106 mEq/L
   137 mEq/L
   27.4 %
   2.2 K/uL
        [image002.jpg]
                             [**2179-2-13**]  03:10 AM
                             [**2179-2-13**]  10:09 AM
                             [**2179-2-13**]  01:39 PM
                             [**2179-2-13**]  05:40 PM
                             [**2179-2-13**]  09:28 PM
                             [**2179-2-14**]  01:33 AM
                             [**2179-2-14**]  11:58 AM
                             [**2179-2-14**]  08:43 PM
                             [**2179-2-15**]  05:57 AM
                             [**2179-2-16**]  03:05 AM
   WBC
   3.9
   3.1
   2.4
   2.8
   2.2
   2.2
   Hct
   21.5
   24.6
   23.5
   24.4
   30.6
   28.8
   30.9
   29.6
   27.4
   Plt
   61
   64
   52
   58
   54
   53
   Cr
   0.4
   0.5
   0.5
   0.4
   0.4
   TCO2
   28
   Glucose
   110
   91
   102
   107
   135
   Other labs: PT / PTT / INR:18.1/32.9/1.6, ALT / AST:23/40, Alk Phos / T
   Bili:58/2.7, Differential-Neuts:67.0 %, Lymph:21.9 %, Mono:7.8 %,
   Eos:3.2 %, Albumin:2.7 g/dL, LDH:273 IU/L, Ca++:7.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.3 mg/dL
   Assessment and Plan
 CIRRHOSIS OF LIVER, OTHER
 ESOPHAGEAL VARICES
 GASTROINTESTINAL BLEED, UPPER (MELENA, GI BLEED, GIB)
   57 yoM w/ a h/o hep C cirrhosis presents as a transfer from [**Hospital3 33**]
   hospital s/p varicieal banding.
   # BRBPR/Melana: Pt s/p 2nd EGD last night and glue application to
   varices. No further bleeding.  HCT stable.
   -d/c octreotide gtt
   -cont PPI [**Hospital1 **] switch to po
   -daily coags, transfuse FFP for INR > 1.5
   -daily hct; transfuse for hct < 25
   --active type and screen
   --f/u hepatology recs
   - continue ciprofloxacin
   # Abdominal distension: Patient with significant abdominal pain and
   distension of sudden onset yesterday.  KUB negative for perforation.
   Exam and KUB suggested gas pain/bloating. Patient remained
   hemodynamically stable.   Due to large amount of ascites was tapped for
   symptomatic relief.  Only 3 L were removed.  Peritoneal fluid negative
   for SBP based on  WBC count.
   - continue simethicone
   - continue bowel regimen with miralax and lactulose/rifaximin
   - therapeutic tap
   # Hyponatremia: lab error; resolved with recheck
   ##Anemia: [**12-22**] UGIB. Hct stable at 30. Total of 3 units during stay.
   -cont to monitor as per above
   # Thrombocytopenia: transfuse for plts <50,000 or spont bleeding
   # Hep C cirrhosis: given current bleeding will hold beta blocker and
   diuretics.
   -f/u hepatology recs
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2179-2-12**] 06:51 PM
   18 Gauge - [**2179-2-14**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2179-02-16 11:14:00 Physician Attending Progress Note
Chief Complaint:  abdominal pain
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: GI bleed, Ascites
   24 Hour Events:
   acute onset abdominal pain in evening
   abdominal CT and ultrasound without portal vein thrombosis, but with
   ascites
   7 L Paracentesis, no evidence of sbp
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ciprofloxacin - [**2179-2-16**] 08:48 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2179-2-15**] 09:07 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2179-2-16**] 11:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**80**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 57 (57 - 95) bpm
   BP: 94/66(73) {94/46(60) - 158/93(108)} mmHg
   RR: 20 (15 - 26) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 71 Inch
   Bladder pressure: 15 (15 - 17) mmHg
   Total In:
                                                                  1,371 mL
                                                                    419 mL
   PO:
                                                                    240 mL
   TF:
   IVF:
                                                                    931 mL
                                                                    369 mL
   Blood products:
                                                                    200 mL
                                                                     50 mL
   Total out:
                                                                  7,943 mL
                                                                    405 mL
   Urine:
                                                                    943 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
                                                                  7,000 mL
   Balance:
                                                                 -6,572 mL
                                                                     14 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///24/
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated
   Head, Ears, Nose, Throat: No(t) Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds: Clear :
   )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Normal
   Labs / Radiology
   9.6 g/dL
   53 K/uL
   135 mg/dL
   0.4 mg/dL
   24 mEq/L
   3.3 mEq/L
   6 mg/dL
   106 mEq/L
   137 mEq/L
   27.4 %
   2.2 K/uL
        [image002.jpg]
                             [**2179-2-13**]  03:10 AM
                             [**2179-2-13**]  10:09 AM
                             [**2179-2-13**]  01:39 PM
                             [**2179-2-13**]  05:40 PM
                             [**2179-2-13**]  09:28 PM
                             [**2179-2-14**]  01:33 AM
                             [**2179-2-14**]  11:58 AM
                             [**2179-2-14**]  08:43 PM
                             [**2179-2-15**]  05:57 AM
                             [**2179-2-16**]  03:05 AM
   WBC
   3.9
   3.1
   2.4
   2.8
   2.2
   2.2
   Hct
   21.5
   24.6
   23.5
   24.4
   30.6
   28.8
   30.9
   29.6
   27.4
   Plt
   61
   64
   52
   58
   54
   53
   Cr
   0.4
   0.5
   0.5
   0.4
   0.4
   TCO2
   28
   Glucose
   110
   91
   102
   107
   135
   Other labs: PT / PTT / INR:18.1/32.9/1.6, ALT / AST:23/40, Alk Phos / T
   Bili:58/2.7, Differential-Neuts:67.0 %, Lymph:21.9 %, Mono:7.8 %,
   Eos:3.2 %, Albumin:2.7 g/dL, LDH:273 IU/L, Ca++:7.9 mg/dL, Mg++:1.8
   mg/dL, PO4:2.3 mg/dL
   Imaging: CT abdomen pelvis -
   Assessment and Plan
   57 yo M HCV here w variceal bleed now stable
   1. Variceal bleed:
   - maintain 3 PIVs
    - d/c octreotide
    - cont [**Hospital1 **] PPI
    - t/f INR < 1.6, Hct > 25
    - cipro x 7 days
   2. Abd distension:
   - s/p 7 L paracentesis
    - cont trend creatinine
    - restart diuretics [**2-17**]
   3. HCV cirrhosis:
    - restart BB when stable
   4. Nutrition:
     - boost shakes with low sodium diet
   5. PT consult
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   22 Gauge - [**2179-2-12**] 06:51 PM
   18 Gauge - [**2179-2-14**] 12:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 25 minutes